US07683185B2
6-(4Dimethylamino-phenylsulfanyl)hexanoic acid hydroxamide (29c).
To a solution of 6-(4-dimethylamino-phenylsulfanyl)-hexanoic acid methyl ester (722 mg, 2.6 mmol) in distilled THF (20 mL) containing 50% aqueous hydroxylamine (1.7 mL, 25.7 mmol) was added at 0° C. a solution of potassium hydroxide in methanol (1M, 4.4 mL, 4.4 mmol) in a dropwise manner. After stirring at 0° C. for 1 h, distilled water (20 mL) was added and the mixture was made neutral by dropwise addition of concentrated hydrochloric acid (10 M) at 0° C. The aqueous solution was extracted with ethyl acetate (2×40 mL) and the combined extracts were washed with brine (80 mL), dried over anhydrous MgSO4, filtered and evaporated to dryness. The title compound was obtained as a colourless oil (377 mg, 52%).

reactant | 6-(4-dimethylamino-phenylsulfanyl)-hexanoic acid methyl ester | 2.6 mmol, 722 mg | COC(CCCCCSC1=CC=C(C=C1)N(C)C)=O | C15H23NO2S
reactant | hydroxylamine | 25.7 mmol, 1.7 mL | NO | H3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 4.4 mmol, 1M, 4.4 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-(4Dimethylamino-phenylsulfanyl)hexanoic acid | CN(C1=CC=C(C=C1)SCCCCCC(=O)O)C | C14H21NO2S
